### PR TITLE
[Merged by Bors] - feat(RingTheory/Artinian): rewrite results using spectra types instead of sets

### PR DESCRIPTION
**Pull request by mistarro**
Rewrite results about artinian rings using `MaximalSpectrum` and `PrimeSpectrum` instead of sets `{I | I.IsMaximal}` and `{I | I.IsPrime}`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 1]
```diff
@@ -462,9 +464,13 @@ lemma maximal_ideals_finite : {I : Ideal R | I.IsMaximal}.Finite := by
     inf_le_right.eq_of_not_lt (H (p ⊓ s.inf Subtype.val) ⟨insert p s, by simp⟩)
   rwa [← Subtype.ext <| q.2.eq_of_le p.2.ne_top hq2]
 
-lemma subtype_isMaximal_finite : Finite {I : Ideal R | I.IsMaximal} :=
+lemma subtype_isMaximal_finite : Finite {I : Ideal R // I.IsMaximal} :=
   (maximal_ideals_finite R).to_subtype
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:468]: Do we still need this?

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 2]
```diff
@@ -488,30 +494,64 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
 lemma isPrime_iff_isMaximal (p : Ideal R) : p.IsPrime ↔ p.IsMaximal :=
   ⟨fun _ ↦ isMaximal_of_isPrime p, fun h ↦ h.isPrime⟩
 
+/-- The prime spectrum is in bijection with the set of prime ideals. -/
+@[simps]
+def primeSpectrum_equiv_maximalSpectrum : PrimeSpectrum R ≃ MaximalSpectrum R where
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:499]:
```suggestion
def primeSpectrumEquivMaximalSpectrum : PrimeSpectrum R ≃ MaximalSpectrum R where
```
Definitions should be in camel case.

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 3]
```diff
@@ -488,30 +494,64 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+  toFun I := ⟨I.asIdeal, isPrime_iff_isMaximal I.asIdeal |>.mp I.isPrime⟩
+  invFun I := ⟨I.asIdeal, isPrime_iff_isMaximal I.asIdeal |>.mpr I.isMaximal⟩
+  left_inv _ := rfl
+  right_inv _ := rfl
+
+lemma primeSpectrum_equiv_maximalSpectrum_comp_asIdeal :
+    MaximalSpectrum.asIdeal ∘ primeSpectrum_equiv_maximalSpectrum.toFun =
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:506]:
```suggestion
    MaximalSpectrum.asIdeal ∘ primeSpectrum_equiv_maximalSpectrum =
```

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 4]
```diff
@@ -488,30 +494,64 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+      PrimeSpectrum.asIdeal (R := R) := rfl
+
+lemma primeSpectrum_equiv_maximalSpectrum_inv_comp_asIdeal :
+    PrimeSpectrum.asIdeal.comp primeSpectrum_equiv_maximalSpectrum.invFun =
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:510]:
```suggestion
    PrimeSpectrum.asIdeal.comp primeSpectrum_equiv_maximalSpectrum.symm =
```

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 5]
```diff
@@ -488,30 +494,64 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+      MaximalSpectrum.asIdeal (R := R) := rfl
+
+lemma primeSpectrum_asIdeal_range_eq :
+    range PrimeSpectrum.asIdeal = (range <| MaximalSpectrum.asIdeal (R := R)) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:514]: If we have `range PrimeSpectrum.asIdeal = { I : I.IsPrime }` and the maximal ideal version, this lemma could be proved by `simp only [PrimeSpectrum.range_asIdeal, MaximalSpectrum.range_asIdeal, isPrime_iff_isMaximal]`

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 6]
```diff
@@ -488,30 +494,64 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+
 variable (R)
 
-lemma primeSpectrum_finite : {I : Ideal R | I.IsPrime}.Finite := by
+lemma prime_ideals_finite : {I : Ideal R | I.IsPrime}.Finite := by
   simpa only [isPrime_iff_isMaximal] using maximal_ideals_finite R
 
-attribute [local instance] subtype_isMaximal_finite
+lemma subtype_isPrime_finite : Finite {I : Ideal R // I.IsPrime} :=
+  (prime_ideals_finite R).to_subtype
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:529]: Do we still need this?

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 7]
```diff
@@ -488,30 +494,64 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+instance : Finite (PrimeSpectrum R) :=
+  haveI := subtype_isPrime_finite R
+  .of_equiv _ (PrimeSpectrum.equivSubtype _).symm
 
 /-- A temporary field instance on the quotients by maximal ideals. -/
 @[local instance] noncomputable def fieldOfSubtypeIsMaximal
-    (I : {I : Ideal R | I.IsMaximal}) : Field (R ⧸ I.1) :=
-  have := mem_setOf.mp I.2; Ideal.Quotient.field I.1
+    (I : MaximalSpectrum R) : Field (R ⧸ I.asIdeal) :=
+  have := mem_setOf.mp I.isMaximal; Ideal.Quotient.field I.asIdeal
```
Comment (erdOne) [inline Mathlib/RingTheory/Artinian/Module.lean:538]:
```suggestion
  Ideal.Quotient.field I.asIdeal
```
Not tested

File: Mathlib/RingTheory/Spectrum/Maximal/Basic.lean [hunk 8]
```diff
@@ -21,6 +20,19 @@ variable (R S P : Type*) [CommSemiring R] [CommSemiring S] [CommSemiring P]
...
 
+/-- The prime spectrum is in bijection with the set of prime ideals. -/
+@[simps]
+def equivSubtype : MaximalSpectrum R ≃ {I : Ideal R // I.IsMaximal} where
+  toFun I := ⟨I.asIdeal, I.2⟩
+  invFun I := ⟨I, I.2⟩
+  left_inv _ := rfl
+  right_inv _ := rfl
+
+theorem asIdeal_range_eq : Set.range MaximalSpectrum.asIdeal = {J : Ideal R | J.IsMaximal} :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Maximal/Basic.lean:31]:
```suggestion
theorem range_asIdeal : Set.range MaximalSpectrum.asIdeal = {J : Ideal R | J.IsMaximal} :=
```
We name lemmas in the order they appear in the goal. And usually we only describe the LHS and omit the `eq` unless it is necessary for disambiguation.

File: Mathlib/RingTheory/Spectrum/Prime/Defs.lean [hunk 9]
```diff
@@ -21,16 +21,22 @@ which is constructed in `AlgebraicGeometry.StructureSheaf`.)
...
   isPrime : asIdeal.IsPrime
 
 @[deprecated (since := "2024-06-22")] alias PrimeSpectrum.IsPrime := PrimeSpectrum.isPrime
 
-attribute [instance] PrimeSpectrum.isPrime
+namespace PrimeSpectrum
+
+attribute [instance] isPrime
+
+end PrimeSpectrum
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Defs.lean:42]: I think you can revert these changes now?

File: Mathlib/RingTheory/Artinian/Module.lean (hunk 1 above)
Comment (mistarro) [reply Mathlib/RingTheory/Artinian/Module.lean:468]: I thought it could be useful if someone needs to use subtype instead of `MaximalSpectrum`. I think leaving it is harmless but if the community agree that we should switch to using only `MaximalSpectrum` maybe it's worth removing.

File: Mathlib/RingTheory/Spectrum/Maximal/Basic.lean (hunk 8 above)
Comment (mistarro) [reply Mathlib/RingTheory/Spectrum/Maximal/Basic.lean:31]: Do you think `range_asIdeal_eq` could be better?

File: Mathlib/RingTheory/Artinian/Module.lean (hunk 1 above)
Comment (mistarro) [reply Mathlib/RingTheory/Artinian/Module.lean:468]: Ok, I'll remove, it's easy to do just `(maximal_ideals_finite R).to_subtype`...

File: Mathlib/RingTheory/Artinian/Module.lean (hunk 7 above)
Comment (mistarro) [reply Mathlib/RingTheory/Artinian/Module.lean]: Works.

File: Mathlib/RingTheory/Artinian/Module.lean (hunk 1 above)
Comment (mistarro) [reply Mathlib/RingTheory/Artinian/Module.lean:468]: You mean `instance : Finite (PrimeSpectrum R)` (and for maximal as well)? Or `lemma subtype_isMaximal_finite : Finite {I : Ideal R // I.IsMaximal}`? I think both might be reusable outside at some point.

**Comment by mattrobball** [comment]
!bench

File: Mathlib/RingTheory/Artinian/Module.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Artinian/Module.lean:468]: I'm referring to the latter. Providing the latter in mathlib seems to encourage people to use `{I : Ideal R // I.IsMaximal}` instead of `MaximalSpectrum R` but we wouldn't want this.

Comment (mistarro) [reply Mathlib/RingTheory/Artinian/Module.lean:468]: Ok, will remove then.

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 10]
```diff
@@ -488,30 +491,56 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
 lemma isPrime_iff_isMaximal (p : Ideal R) : p.IsPrime ↔ p.IsMaximal :=
   ⟨fun _ ↦ isMaximal_of_isPrime p, fun h ↦ h.isPrime⟩
 
+/-- The prime spectrum is in bijection with the set of prime ideals. -/
```
Comment (jcommelin) [inline Mathlib/RingTheory/Artinian/Module.lean:494]:
```suggestion
/-- The prime spectrum is in bijection with the maximal spectrum. -/
```

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 11]
```diff
@@ -488,30 +491,56 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+  toFun I := ⟨I.asIdeal, isPrime_iff_isMaximal I.asIdeal |>.mp I.isPrime⟩
+  invFun I := ⟨I.asIdeal, isPrime_iff_isMaximal I.asIdeal |>.mpr I.isMaximal⟩
+  left_inv _ := rfl
+  right_inv _ := rfl
+
+lemma primeSpectrum_equiv_maximalSpectrum_comp_asIdeal :
+    MaximalSpectrum.asIdeal ∘ primeSpectrumEquivMaximalSpectrum =
+      PrimeSpectrum.asIdeal (R := R) := rfl
+
+lemma primeSpectrum_equiv_maximalSpectrum_inv_comp_asIdeal :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Artinian/Module.lean:506]:
```suggestion
lemma primeSpectrumEquivMaximalSpectrum_comp_asIdeal :
    MaximalSpectrum.asIdeal ∘ primeSpectrumEquivMaximalSpectrum =
      PrimeSpectrum.asIdeal (R := R) := rfl

lemma primeSpectrumEquivMaximalSpectrum_symm_comp_asIdeal :
```

File: Mathlib/RingTheory/Artinian/Module.lean [hunk 12]
```diff
@@ -488,30 +491,56 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+
+lemma primeSpectrum_asIdeal_range_eq :
+    range PrimeSpectrum.asIdeal = (range <| MaximalSpectrum.asIdeal (R := R)) := by
+  simp only [PrimeSpectrum.range_asIdeal, MaximalSpectrum.range_asIdeal,
+    isPrime_iff_isMaximal]
+
 variable (R)
 
-lemma primeSpectrum_finite : {I : Ideal R | I.IsPrime}.Finite := by
+lemma prime_ideals_finite : {I : Ideal R | I.IsPrime}.Finite := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Artinian/Module.lean:517]:
```suggestion
lemma setOf_isPrime_finite : {I : Ideal R | I.IsPrime}.Finite := by
```

File: Mathlib/RingTheory/Spectrum/Prime/Basic.lean [hunk 13]
```diff
@@ -198,6 +203,10 @@ theorem vanishingIdeal_zeroLocus_eq_radical (I : Ideal R) :
     rw [mem_vanishingIdeal, Ideal.radical_eq_sInf, Submodule.mem_sInf]
     exact ⟨fun h x hx => h ⟨x, hx.2⟩ hx.1, fun h x hx => h x.1 ⟨hx, x.2⟩⟩
 
+theorem nilradical_eq_iInf :
+    nilradical R = iInf asIdeal := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/Basic.lean:207]:
```suggestion
theorem nilradical_eq_iInf : nilradical R = iInf asIdeal := by
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
